US07521455B2
(1) Manufacture of 3-[(2S)-2-methylpyrrolidin-1-yl]propan-1-ol
(2S)-2-methylpyrrolidine hydrobromide (2.70 g, 16.3 mmol), 3-bromopropanol (2.49 g, 17.9 mmol) and potassium carbonate (6.75 g, 48.9 mmol) were mixed in tetrahydrofuran (20 mL), and stirred at 60° C. for 18 hours. The precipitate was filtered off, and the filtrate was concentrated. The residue was distilled under reduced pressure, and the target compound (1.88 g, 80%) was thus obtained as a colorless oily substance. (2S)-2-methyl-pyrrolidine hydrobromide was manufactured by the method described in the literature (J. Org. Chem., 1989, Vol. 54, p. 209) using D-prolinol as starting material.

reactant | (2S)-2-methyl-pyrrolidine hydrobromide | Br.C[C@@H]1NCCC1
reactant | D-prolinol | N1[C@@H](CO)CCC1 | C5H11NO
product | 3-[(2S)-2-methylpyrrolidin-1-yl]propan-1-ol | C[C@@H]1N(CCC1)CCCO | C8H17NO
